US05196534
2,3,4,5-Tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one
Dimethylsulphate (2.28 ml) was added over 5 min to a stirred mixture of 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one (3 g), acetone (12 ml) and 20% w/v aqueous sodium hydroxide (9 ml) at ca. 50°. The mixture was heated at reflux for 10 min. Further sodium hydroxide (6 ml) was added and the mixture was heated at reflux for 5 min. On cooling a solid crystallised. Water (10 ml) was added and the mixture was filtered. The solid was washed with water (2×20 ml), and dried in vacuo 45° to give the title compound (3.16 g). The t.l.c. data for this material were consistent with those obtained for the product of Example 1.

reactant | Dimethylsulphate | 2.28 ml | COS(=O)(=O)OC | C2H6O4S
reactant | 2,3,4,5-tetrahydro-1H-pyrido[4,3-b]indol-1-one | 3 g | C1(NCCC=2NC=3C=CC=CC3C21)=O | C11H10N2O
reactant | sodium hydroxide | 9 ml | [OH-].[Na+]
reactant | sodium hydroxide | 6 ml | [OH-].[Na+]
solvent | acetone | 12 ml | CC(=O)C | C3H6O
product | 2,3,4,5-Tetrahydro-5-methyl-1H-pyrido[4,3-b]indol-1-one | 3.16 g | CN1C2=C(C=3C=CC=CC13)C(NCC2)=O | C12H12N2O
